US05663053
A solution of 2,4,5-triphenylimidazole (1.07 g) in dimethyl-formimide (20 ml) was treated with sodium hydride 50% in oil (0.17 g) and methyl 7-bromohept-5-ynoate (0.95 g). The solution was stirred for 18 hours when the solvent was removed under reduced pressure and the residue was chromatographed on silica gel eluted with chloroform hexane to give a clear oil which was dissolved in methanol (20 ml) and treated with 10% potassium hydroxide solution (10 ml) for 2 hours. The methanol was removed under reduced pressure and the remaining aqueous was acidified (pH 3) and filtered. The filtrate was extracted with chloroform (3×50 ml). The chloroform extracts were dried over magnesium sulphate, filtered and the solvent removed to give a solid which was recrystallised from acetonitrile to give 7-(1,2,4-triphenyl-imidazolyl)-hept-5-ynoic acid as white prisms, m.p. 144°-145° C.; Found: C, 79.99; H, 5.81; N, 6.40% (C28H24N2O2);Requires: C, 79.97; H, 5.75; N, 6.66%

reactant | 2,4,5-triphenylimidazole | 1.07 g | C1(=CC=CC=C1)C=1NC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1 | C21H16N2
reactant | sodium hydride | [H-].[Na+]
reactant | potassium hydroxide | 10 ml | [OH-].[K+]
reactant | methyl 7-bromohept-5-ynoate | 0.95 g | BrCC#CCCCC(=O)OC | C8H11BrO2
solvent | methanol | 20 ml | CO | CH4O
product | 7-(1,2,4-triphenyl-imidazolyl)-hept-5-ynoic acid | C1(=CC=CC=C1)N1C(=NC(=C1CC#CCCCC(=O)O)C1=CC=CC=C1)C1=CC=CC=C1 | C28H24N2O2
